US07071182B2
N-[1-(2-dimethylamino-ethyl)-1H-indazol-5-yl]-2-(4-phenoxy-phenyl)-acetamide
A mixture of 1-(2-dimethylamino-ethyl)-1H-indazol-5-ylamine (42 mg, 0.20 mmol), 4-phenoxy-phenylacetic acid (47 mg, 0.21 mmol), ethyldimethylpropylcarbodiimide hydrochloride (43 mg g, 0.22 mmol), N-hydroxybenzotriazole (30 mg, 0.22 mmol), N-methyl morpholine (46 mg, 0.44 mmol) in 2 mL of DMF was shaken for 6 hours. The mixture was concentrated under reduced pressure, the residue taken up in 1.5 mL of a 1:1 mixture of DMSO/MeOH and purified by preparative reverse-phase HPLC. 1H NMR (300 MHz, DMSO-d6) ppm 2.84 (s, 6H), 3.65 (s, 2H), 3.62 (t, J=6.24, 2H), 4.76 (t, J=6.24, 2H), 6.97–7.00 (m, 4H), 7.11–7.14 (m, 1H), 7.36–7.40 (m, 4H), 7.64 (m, 1H), 7.69 (m, 1H), 8.12 (m, 1H), 8.15 (m, 1H), 9.58 (s, 1H); MS (DCI/NH3) m/z 415 [M+H]+.

reactant | 1-(2-dimethylamino-ethyl)-1H-indazol-5-ylamine | 0.20 mmol, 42 mg | CN(CCN1N=CC2=CC(=CC=C12)N)C | C11H16N4
reactant | 4-phenoxy-phenylacetic acid | 0.21 mmol, 47 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)O | C14H12O3
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 0.22 mmol, 43 mg | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 0.22 mmol, 30 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 0.44 mmol, 46 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[1-(2-dimethylamino-ethyl)-1H-indazol-5-yl]-2-(4-phenoxy-phenyl)-acetamide | CN(CCN1N=CC2=CC(=CC=C12)NC(CC1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H26N4O2
